US06093744
Synthesis of (S)-[(2,4,6-Triisopropyl-phenyl)-acetyl]-sulfamic acid 4-(2,6-diamino-hexanoylamino)-2,6-diisopropyl-phenyl ester dihydrochloride
HCl (g) was bubbled through a solution of (S)-[5-tert-butoxycarbonylamino-5-(3,5-diisopropyl-4-{[(2,4,6-triisopropyl-phenyl)-acetyl]sulfamoyloxy}-phenylcarbamoyl)-pentyl]-carbamic acid tert-butyl ester (1.08 g, 1.3 mmol) in 150 mL methanol for 30 minutes. The reaction was concentrated, and the resulting foam was triturated with 5% dichloromethane/hexanes to give 0.88 g (96%) of the title compound as a tan solid; mp 172-179° C.

reactant | HCl | Cl | ClH
reactant | (S)-[5-tert-butoxycarbonylamino-5-(3,5-diisopropyl-4-{[(2,4,6-triisopropyl-phenyl)-acetyl]sulfamoyloxy}-phenylcarbamoyl)-pentyl]-carbamic acid tert-butyl ester | 1.3 mmol, 1.08 g | C(C)(C)(C)OC(NCCCC[C@@H](C(NC1=CC(=C(C(=C1)C(C)C)OS(NC(CC1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)=O)(=O)=O)C(C)C)=O)NC(=O)OC(C)(C)C)=O | C45H72N4O9S
solvent | methanol | 150 mL | CO | CH4O
product | (S)-[(2,4,6-Triisopropyl-phenyl)-acetyl]-sulfamic acid 4-(2,6-diamino-hexanoylamino)-2,6-diisopropyl-phenyl ester dihydrochloride | 0.88 g, 96% | Cl.Cl.N[C@H](C(=O)NC1=CC(=C(C(=C1)C(C)C)OS(NC(CC1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)=O)(=O)=O)C(C)C)CCCCN | InChI=1S/C35H56N4O5S.2ClH/c1-20(2)25-15-27(21(3)4)31(28(16-25)22(5)6)19-33(40)39-45(42,43)44-34-29(23(7)8)17-26(18-30(34)24(9)10)38-35(41)32(37)13-11-12-14-36;;/h15-18,20-24,32H,11-14,19,36-37H2,1-10H3,(H,38,41)(H,39,40);2*1H/t32-;;/m0../s1
